US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-5-(methylsulfonyl)thiophene-2-carboxamide
Using N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (100 mg, 0.32 mmol), 5-(methylsulfonyl)thiophene-2-carboxylic acid (47 mg, 0.33 mmol), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (65 mg, 0.34 mmol), 1-hydroxybenzotriazole (46 mg, 0.34 mmol) and N,N-dimethylformamide (5.0 mL) as starting materials and in the same manner as in Example 318, the title compound (41 mg, 26%) was obtained as a white powder.

reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.32 mmol, 100 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
reactant | 5-(methylsulfonyl)thiophene-2-carboxylic acid | 0.33 mmol, 47 mg | CS(=O)(=O)C1=CC=C(S1)C(=O)O | C6H6O4S2
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.34 mmol, 65 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.34 mmol, 46 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-5-(methylsulfonyl)thiophene-2-carboxamide | 41 mg, 26% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(=O)C=2SC(=CC2)S(=O)(=O)C)C1 | C22H19N5O5S2
